US04151280
A solution of 0.9 g of sodium hydroxide in 50 ml of water was added to a suspension of 1.66 g of ethyl 5-methyl-4,5-dihydro-4-oxo-pyrrolo[1,2-a]quinoxaline-2-carboxylate in 30 ml of hot ethanol and the mixture was warmed on a water bath for one hour after which thin layer chromatography showed no ester present. The resulting solution was filtered hot and the filtrate was acidified to a pH of 1-2 with concentrated hydrochloric acid. The mixture was cooled and filtered and the recovered product was rinsed with water and dried over P2O5 under vacuum to obtain 1.40 g (95% yield) of 5-methyl-4,5-dihydro-4-oxo-pyrrolo[1,2-a]quinoxaline-2-carboxylic acid melting at 330°-333° C.

reactant | sodium hydroxide | 0.9 g | [OH-].[Na+]
reactant | ethyl 5-methyl-4,5-dihydro-4-oxo-pyrrolo[1,2-a]quinoxaline-2-carboxylate | 1.66 g | CN1C(C=2N(C3=CC=CC=C13)C=C(C2)C(=O)OCC)=O | C15H14N2O3
solvent | water | 50 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-methyl-4,5-dihydro-4-oxo-pyrrolo[1,2-a]quinoxaline-2-carboxylic acid | 1.40 g, 95% yield | CN1C(C=2N(C3=CC=CC=C13)C=C(C2)C(=O)O)=O | C13H10N2O3
